US08242125B2
5-(6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidin-4-yloxy)-N-(3-(trifluoromethyl)phenyl)-1H-indole-1-carboxamide (125.9 mg, 0.287 mmol) is dissolved in DMF (5 mL) and TEA (80 μL, 0.577 mmol) is added followed by 2-bromoethanol (80 μL, 1.133 mmol). The solution is stirred at rt overnight. Then the reaction is concentrated and absorbed onto silica gel and separated via FCC (0-10%, 10% NH4 in MeOH:DCM) to obtain 5-(6-(2-hydroxyethyl)-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidin-4-yloxy)-N-(3-(trifluoromethyl)phenyl)-1H-indole-1-carboxamide. MS (ESI) m/z 484.0 (M+1); 1H NMR (400 MHz, DMSO-d6) δ ppm 10.38 (s, 1H) 8.56 (s, 1H) 8.27 (d, J=9.09 Hz, 1H) 8.09-8.14 (m, 2H) 7.97 (d, J=7.58 Hz, 1H) 7.65 (t, J=8.08 Hz, 1H) 7.48-7.52 (m, 2H) 7.15 (dd, J=8.84, 2.53 Hz, 1H) 6.80 (d, J=3.54 Hz, 1H) 4.57 (t, J=5.56 Hz, 1H) 3.98-4.03 (m, 4H) 3.58 (q, J=6.06 Hz, 2H) 2.82 (t, J=6.06 Hz, 2H).

reactant | 5-(6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidin-4-yloxy)-N-(3-(trifluoromethyl)phenyl)-1H-indole-1-carboxamide | 0.287 mmol, 125.9 mg | N1=CN=C(C2=C1CNC2)OC=2C=C1C=CN(C1=CC2)C(=O)NC2=CC(=CC=C2)C(F)(F)F | C22H16F3N5O2
reactant | 2-bromoethanol | 1.133 mmol, 80 μL | BrCCO | C2H5BrO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-(6-(2-hydroxyethyl)-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidin-4-yloxy)-N-(3-(trifluoromethyl)phenyl)-1H-indole-1-carboxamide | OCCN1CC=2N=CN=C(C2C1)OC=1C=C2C=CN(C2=CC1)C(=O)NC1=CC(=CC=C1)C(F)(F)F | C24H20F3N5O3
